US06605601B2
Step 3: 8-(4-Hydroxy-bicyclo[2.2.2]oct-1-yl)-3-propyl-6-thioxo-1,3,6,7-tetrahydro-purin-2-one
8-(4-Hydroxy-bicyclo[2.2.2]oct-1-yl)-3-propyl-3,7-dihydro-purine-2,6-dione (500 mg, 1.57 mmol) was dissolved in 10 mL of pyridine. P4S10 (1.05 g, 1.5 eq) was added and the reaction mixture was stirred under reflux for 6 h. The reaction mixture was then cooled to rt and quenched slowly with 5 mL of H2O. The mixture was then acidified at 0° C. to pH 5 with 6 N HCl. The aqueous layer was extracted with EtOAc. The combined organic layer was dried (Na2SO4) and concentrated under reduced pressure. Purification by preparative HPLC afforded 100 mg of the titled compound.

reactant | 8-(4-Hydroxy-bicyclo[2.2.2]oct-1-yl)-3-propyl-3,7-dihydro-purine-2,6-dione | 1.57 mmol, 500 mg | OC12CCC(CC1)(CC2)C2=NC=1N(C(NC(C1N2)=O)=O)CCC | C16H22N4O3
reactant | P4S10 | 1.05 g, 1.5 eq | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | 8-(4-Hydroxy-bicyclo[2.2.2]oct-1-yl)-3-propyl-6-thioxo-1,3,6,7-tetrahydro-purin-2-one | 100 mg | OC12CCC(CC1)(CC2)C2=NC=1N(C(NC(C1N2)=S)=O)CCC | C16H22N4O2S
